US05849912
Synthesis of ethyl 3-bromo-5-nitrosalicylate
1.74 kg (8.2 mol) of ethyl 5-nitrosalicylate and 700 g of potassium acetate were dissolved in 5000 ml of acetic acid. 1.312 kg of bromine was dropwise added to the obtained solution at room temperature in one hour. Thereafter, the resulting mixture was further stirred for one hour and then concentrated under reduced pressure. The obtained residue was dissolved in ethyl acetate. The obtained solution was washed with water, dehydrated and concentrated under reduced pressure. The obtained residue was crystallized from isopropyl ether to give 2.38 kg of the title compound as a colorless crystal.

reactant | ethyl 5-nitrosalicylate | 8.2 mol, 1.74 kg | [N+](=O)([O-])C1=CC=C(C(C(=O)OCC)=C1)O | C9H9NO5
reactant | potassium acetate | 700 g | C(C)(=O)[O-].[K+]
reactant | bromine | 1.312 kg | BrBr | Br2
solvent | acetic acid | 5000 ml | C(C)(=O)O | C2H4O2
product | ethyl 3-bromo-5-nitrosalicylate | 2.38 kg | BrC1=C(C(C(=O)OCC)=CC(=C1)[N+](=O)[O-])O | C9H8BrNO5
